US05952321
Step C: (4S)-3,3-Diethyl-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]-4-[(4-acetyl)phenoxy]azetidin-2-one
A solution of (4S)-3,3-diethyl-1-[(R)-α-allyl-(4-methyl)benzylaminocarbonyl]-4-[(4-acetyl)phenoxy]azetidin-2-one (1.3 gm, 2.9 mmol) and 100 mg of 10% palladium on carbon in ethanol (15 mL) was hydrogenated at 40 p.s.i. for 20 min. The reaction was then filtered and evaporated to afford 1.3 gm (quantitative) of clean title compound without further purification.

reactant | (4S)-3,3-diethyl-1-[(R)-α-allyl-(4-methyl)benzylaminocarbonyl]-4-[(4-acetyl)phenoxy]azetidin-2-one | 2.9 mmol, 1.3 gm | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(C)=O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CC=C)=O)CC | C27H32N2O4
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (4S)-3,3-Diethyl-1-[(R)-α-n-propyl-(4-methyl)benzylaminocarbonyl]-4-[(4-acetyl)phenoxy]azetidin-2-one | C(C)C1(C(N([C@H]1OC1=CC=C(C=C1)C(C)=O)C(=O)N[C@@H](C1=CC=C(C=C1)C)CCC)=O)CC | C27H34N2O4
